US07550455B2
3-Methyl-7-(2-butyn-1-yl)-8-bromoxanthine
A mixture of 40.00 g of 3-methyl-8-bromoxanthine, 36 ml of diisopropylethylamine and 23.00 g of 1-bromo-2-butyne in 500 ml of N,N-dimethylformamide is stirred at room temperature for three hours. 1 ml of 1-bromo-2-butyne is then added again and the mixture is stirred at room temperature for a further hour until the reaction is complete. For work-up, the reaction mixture is diluted with 400 ml of water. The resulting precipitate is filtered off with suction, washed with water, cold methanol and diethyl ether and dried.

reactant | 3-methyl-8-bromoxanthine | 40.00 g | CN1C(NC(C=2NC(=NC12)Br)=O)=O | C6H5BrN4O2
reactant | diisopropylethylamine | 36 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-bromo-2-butyne | 23.00 g | BrCC#CC | C4H5Br
reactant | 1-bromo-2-butyne | 1 ml | BrCC#CC | C4H5Br
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 3-Methyl-7-(2-butyn-1-yl)-8-bromoxanthine | CN1C(NC(C=2N(C(=NC12)Br)CC#CC)=O)=O | C10H9BrN4O2
